US04264497
5.2 g of cis-(-)-2,3-dihydro-3-[(4-methylpiperazinyl)-methyl]-2-phenyl-1,5-benzothiazepine prepared as described in Example 18 or 19 was dissolved in 15 ml of ethanol and 3.6 ml of concentrated hydrochloric acid was added to the solution with stirring. The precipitated crystals were separated by filtration and recrystallized from aqueous methanol to obtain cis-(-)-2,3-dihydro-3-[(4-methylpiperazinyl)methyl]-2-phenyl-1,5-benzothiazepin-4(5H)-one dihydrochloride as colorless needles having a melting point of 231° C. (with decomposition). [α]D20 =-56° (c=0.4, water).

reactant | cis-(-)-2,3-dihydro-3-[(4-methylpiperazinyl)-methyl]-2-phenyl-1,5-benzothiazepine | 5.2 g | CN1CCN(CC1)C[C@@H]1[C@@H](SC2=C(N=C1)C=CC=C2)C2=CC=CC=C2 | C21H25N3S
reactant | hydrochloric acid | 3.6 ml | Cl | ClH
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | cis-(-)-2,3-dihydro-3-[(4-methylpiperazinyl)methyl]-2-phenyl-1,5-benzothiazepin-4(5H)-one dihydrochloride | Cl.Cl.CN1CCN(CC1)C[C@@H]1[C@@H](SC2=C(NC1=O)C=CC=C2)C2=CC=CC=C2 | InChI=1S/C21H25N3OS.2ClH/c1-23-11-13-24(14-12-23)15-17-20(16-7-3-2-4-8-16)26-19-10-6-5-9-18(19)22-21(17)25;;/h2-10,17,20H,11-15H2,1H3,(H,22,25);2*1H/t17-,20+;;/m1../s1
